US07205359B2
The norbornene derivative of norbornene methylene amine (NBMA) is mainly produced by the reaction of cyclopentadiene (66 g) and allyl amine (50 g). The required reaction condition of the Diels-Alder reaction in the present invention is usually controlled at 180° C. for 8 hrs in the presence of hydroquinone (1 g) as a inhibitor. The boiling point of allyl amine is 55–58° C., so the reaction needs to be carried out in a autocalve. The resulting solution is distilled under vacuum to obtain norbornene methylene amine (NBMA) (bp=59˜61° C./11 mmHg).

reactant | hydroquinone | 1 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | allyl amine | C(C=C)N | C3H7N
product | norbornene methylene amine | C=N.C12C=CC(CC1)C2 | InChI=1S/C7H10.CH3N/c1-2-7-4-3-6(1)5-7;1-2/h1-2,6-7H,3-5H2;2H,1H2
